US04959361
6-(2-Chlorophenyl)-1-methyl-8-[(trimethylsilyl)ethynyl]-4H[1,2,4]triazolo[4,3-a][1,4]benzodiazepine
This compound was similarly prepared by coupling of 6-(2-chlorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine with trimethylsilylacetylene as described in Example 56. The product was isolated by chromatography and was crystallized from ethyl acetate/ hexane to give colorless crystals of the title compound with m.p. 243°-245° C.

reactant | 6-(2-chlorophenyl)-8-iodo-1-methyl-4H-[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)I)C(=NN2)C | C17H12ClIN4
reactant | trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
product | 6-(2-Chlorophenyl)-1-methyl-8-[(trimethylsilyl)ethynyl]-4H[1,2,4]triazolo[4,3-a][1,4]benzodiazepine | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(C=C3)C#C[Si](C)(C)C)C(=NN2)C | C22H21ClN4Si
